US09376441B2
(R)-4-((R)-1-((6-chloropyrazolo[1,5-a]pyridin-4-yl)oxy)ethyl)-1-((R)-1-(4-methoxyphenyl)ethyl)pyrrolidin-2-one (216 mg, 0.522 mmol) was dissolved in acetonitrile (10.0 mL) and N-iodosuccinimide (124 mg, 0.548 mmol) was added. The solution was stirred at room temperature for 5 minutes. The reaction was diluted with DCM. The organic layer was washed with 1M NaOH followed by an aqueous solution of sodium thiosulfate. The organic layer was dried (MgSO4), filtered and concentrated under reduced pressure to afford (R)-4-((R)-1-((6-chloro-3-iodopyrazolo[1,5-a]pyridin-4-yl)oxy)ethyl)-1-((R)-1-(4-methoxyphenyl)ethyl)pyrrolidin-2-one.

reactant | (R)-4-((R)-1-((6-chloropyrazolo[1,5-a]pyridin-4-yl)oxy)ethyl)-1-((R)-1-(4-methoxyphenyl)ethyl)pyrrolidin-2-one | 0.522 mmol, 216 mg | ClC=1C=C(C=2N(C1)N=CC2)O[C@H](C)[C@@H]2CC(N(C2)[C@H](C)C2=CC=C(C=C2)OC)=O | C22H24ClN3O3
reactant | N-iodosuccinimide | 0.548 mmol, 124 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-4-((R)-1-((6-chloro-3-iodopyrazolo[1,5-a]pyridin-4-yl)oxy)ethyl)-1-((R)-1-(4-methoxyphenyl)ethyl)pyrrolidin-2-one | ClC=1C=C(C=2N(C1)N=CC2I)O[C@H](C)[C@@H]2CC(N(C2)[C@H](C)C2=CC=C(C=C2)OC)=O | C22H23ClIN3O3
